US07659279B2
Lithium borohydride (2M solution in THF, 6.19 ml) was added dropwise to a stirred solution of 1-tert-butyl 2-methyl (2R,4S)-4-{[tert-butyl(dimethyl)silyl]oxy}pyrrolidine-1,2-dicarboxylate (891 mg) in ether (100 ml) at 0° C. under an atmosphere of nitrogen. The mixture was allowed to warm to room temperature and stirred for 3 hours. A saturated solution of potassium hydrogencarbonate (5 ml) was added slowly, followed by water (20 ml). The ether layer was separated, and the aqueous layer washed with DCM (3×). The combined organic layers were dried (Na2SO4) and concentrated in vacuo to give tert-butyl (2R,4S)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-(hydroxymethyl)pyrrolidine-1-carboxylate as a clear oil (750 mg, 88%), which was used without further purification; NMR spectrum (CDCl3) 4.82 (d, 1H), 4.26-4.28 (m, 1H), 4.13-4.15 (m, 1H), 3.67-3.73 (m, 1H), 3.55 (ddd, 1H), 3.42-3.46 (m, 1H), 3.35 (dd, 1H), 1.92-2.01 (m, 1H), 1.48 (s, 9H), 0.91-0.97 (m, 1H), 0.88 (s, 9H), 0.07 (s, 6M).

reactant | Lithium borohydride | 2M, 6.19 ml | [BH4-].[Li+]
reactant | 1-tert-butyl 2-methyl (2R,4S)-4-{[tert-butyl(dimethyl)silyl]oxy}pyrrolidine-1,2-dicarboxylate | 891 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C17H33NO5Si
reactant | potassium hydrogencarbonate | 5 ml | C(O)([O-])=O.[K+]
reactant | water | 20 ml | O | H2O
solvent | ether | 100 ml | CCOCC | C4H10O
product | tert-butyl (2R,4S)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-(hydroxymethyl)pyrrolidine-1-carboxylate | 750 mg, 88% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](N(C1)C(=O)OC(C)(C)C)CO | C16H33NO4Si
